US08476449B2
Synthesis of (Z)-3-(2-(1H-imidazol-4-yl)ethyl)-2-thioxo-5-((5-(3-(tributylstannyl)phenyl)furan-2-yl)methylene)imidazolidin-4-one (labeling precursor 3)
5-(3-(Tributylstannyl)phenyl)furan-2-carbaldehyde (65 mg, 0.14 mmol) synthesized by the same method as in Example 4 and 3-(2-(1H-imidazol-4-yl)ethyl)-2-thioxoimidazolidin-4-one (32 mg, 0.15 mmol) synthesized by the same method as in Example 3 were dissolved in dichloromethane (7 mL), piperidine (20 μL) was added thereto, and the mixture was stirred at room temperature (25° C.) overnight. After the reaction was completed the solvent was removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using chloroform/methanol (9/1 (volume ratio)) as an eluent, to give labeling precursor 3 in a yield of 42 mg (yield 45.9%).

reactant | 5-(3-(Tributylstannyl)phenyl)furan-2-carbaldehyde | 0.14 mmol, 65 mg | C(CCC)[Sn](C=1C=C(C=CC1)C1=CC=C(O1)C=O)(CCCC)CCCC
reactant | 3-(2-(1H-imidazol-4-yl)ethyl)-2-thioxoimidazolidin-4-one | 0.15 mmol, 32 mg | N1C=NC(=C1)CCN1C(NCC1=O)=S | C8H10N4OS
reactant | piperidine | 20 μL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | (Z)-3-(2-(1H-imidazol-4-yl)ethyl)-2-thioxo-5-((5-(3-(tributylstannyl)phenyl)furan-2-yl)methylene)imidazolidin-4-one | yield 45.9% | N1C=NC(=C1)CCN1C(N\C(\C1=O)=C/C=1OC(=CC1)C1=CC(=CC=C1)[Sn](CCCC)(CCCC)CCCC)=S | InChI=1S/C19H15N4O2S.3C4H9.Sn/c24-18-16(22-19(26)23(18)9-8-14-11-20-12-21-14)10-15-6-7-17(25-15)13-4-2-1-3-5-13;3*1-3-4-2;/h1-2,4-7,10-12H,8-9H2,(H,20,21)(H,22,26);3*1,3-4H2,2H3;/b16-10-;;;;
